US04612323
A mixture of toluene (20 ml), 2-methylbenzimidazole (0.55 g, 4.2 mmole), triethylamine (0.42 g, 4.2 mmole) and 4-(4-ethoxyphenoxy)benzyl chloride (1.00 g, 3.8 mmole) was heated under reflux for 5 hours and then cooled to room temperature. The resultant mixture was washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove toluene. The residue was purified by silica gel column chromatography to give 1-[4-(4-ethoxyphenoxy)benzyl]-2-methylbenzimidazole (1.20 g) as colorless liquid. nD26.0 1.5984.

reactant | 2-methylbenzimidazole | 4.2 mmole, 0.55 g | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | triethylamine | 4.2 mmole, 0.42 g | C(C)N(CC)CC | C6H15N
reactant | 4-(4-ethoxyphenoxy)benzyl chloride | 3.8 mmole, 1.00 g | C(C)OC1=CC=C(OC2=CC=C(CCl)C=C2)C=C1 | C15H15ClO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(4-ethoxyphenoxy)benzyl]-2-methylbenzimidazole | 1.20 g | C(C)OC1=CC=C(OC2=CC=C(CN3C(=NC4=C3C=CC=C4)C)C=C2)C=C1 | C23H22N2O2
